US07582629B2
N-Butyl-1-(4-chlorophenyl)methanesulfonamide
n-Butylamine (3.25 g, 44.43 mmol) was dissolved in THF (25 mL) and it was then cooled in an ice-bath. ((4-Chlorophenyl)methyl)sulfonyl chloride (5.0 g, 22.21 mmol) in THF (25 mL) was dropped in. The cooling-bath was removed after the addition. The mixture was stirred for 2 h and then evaporated to dryness. DCM (50 mL) was added to the residue. It was washed with HCl (5%, 10 mL), water (30 mL×3) and brine (20 mL), dried (MgSO4) and evaporated to give the title compound (5.43 g, 93%) as a solid; 1H NMR (400 MHz, CDCl3): δ 7.36 (d, 2H), 7.32 (d, 2H), 4.19 (s, 2H), 4.11 (bt, 1H), 2.99 (dd, 2H), 1.50-1.43 (m, 2H), 1.36-1.26 (m, 2H), 0.90 (t, 3H); Mass Spectrum: M−H+ 260.

reactant | n-Butylamine | 44.43 mmol, 3.25 g | C(CCC)N | C4H11N
reactant | ((4-Chlorophenyl)methyl)sulfonyl chloride | 22.21 mmol, 5.0 g | ClC1=CC=C(C=C1)CS(=O)(=O)Cl | C7H6Cl2O2S
solvent | THF | 25 mL | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | N-Butyl-1-(4-chlorophenyl)methanesulfonamide | 5.43 g, 93% | C(CCC)NS(=O)(=O)CC1=CC=C(C=C1)Cl | C11H16ClNO2S
